US03987160
A solution of triethyloxonium borofluoride (34 g.) in anhydrous methylene chloride (90 ml.) was added during 5 minutes to a solution of crude 5-methyl-2-propoxybenzamide (34.5 g.) in anhydrous methylene chloride (300 ml.), and the solution was left to stand at room temperature overnight. The solution was concentrated to about 150 ml. and then diluted with anhydrous diethyl ether (500 ml.). The precipitated solid was filtered off and washed with anhydrous diethyl ether to give crude ethyl 5-methyl-2-propoxybenzimidate borofluoride (47 g.), m.p. 148°-150° C.

reactant | triethyloxonium borofluoride | 34 g | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | 5-methyl-2-propoxybenzamide | 34.5 g | CC=1C=CC(=C(C(=O)N)C1)OCCC | C11H15NO2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5-methyl-2-propoxybenzimidate | CC=1C=CC(=C(C(OCC)=N)C1)OCCC | C13H19NO2
